US08809530B1
2-(3-(4-(5-chloro-2-methylphenyl)piperazin-1-yl)propyl)isoindoline-1,3-dione (9)
A mixture of 2-(3-bromopropyl)isoindoline-1,3-dione (2.68 g, 10 mmol) and NaI (20 mmol) in acetone was refluxed for 5 h, then to it was added 1-(5-chloro-2-methylphenyl)piperazine (2.11 g, 10.0 mmol). The reflux was continued for 12 h. Reaction was then cooled to room temperature, filtered through celite and concentrated.. The crude product was recrystalized from acetone to give the title compound as a white solid (3.21 g. 81%).

reactant | 2-(3-bromopropyl)isoindoline-1,3-dione | 10 mmol, 2.68 g | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
reactant | NaI | 20 mmol | [Na+].[I-]
reactant | 1-(5-chloro-2-methylphenyl)piperazine | 10.0 mmol, 2.11 g | ClC=1C=CC(=C(C1)N1CCNCC1)C | C11H15ClN2
solvent | acetone | CC(=O)C | C3H6O
product | 2-(3-(4-(5-chloro-2-methylphenyl)piperazin-1-yl)propyl)isoindoline-1,3-dione | 3.21 g, 81% | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)C | C22H24ClN3O2
